US05491144
4,5-Bis(4-fluoroanilino)phthalimide
Analogously to Example 1, 290 mg (0.7 mmol) of 4,5-bis(4-fluoroanilino)phthalic acid dimethyl ester in 22 ml of ethylene glycol are heated at 120° and, with stirring, ammonia gas is passedthrough the mixture for 18 hours. The reaction mixture is cooled and extracted with ethyl acetate. The ethyl acetate phases are washed in succession three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed on silica gel with hexane/ethyl acetate 1:1 and the product fractions are combined and concentrated by evaporation, yielding the title compound in the form of orange crystals, m.p. >220° C., FAB-MS: 366 [M+ +H].

reactant | 4,5-bis(4-fluoroanilino)phthalic acid dimethyl ester | 0.7 mmol, 290 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=C(C=C1)F)NC1=CC=C(C=C1)F)=O | C22H18F2N2O4
reactant | ammonia | N | H3N
solvent | ethylene glycol | 22 ml | C(CO)O | C2H6O2
product | 4,5-Bis(4-fluoroanilino)phthalimide | FC1=CC=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=CC=C(C=C2)F)C=C1 | C20H13F2N3O2
